US05332739
1.0 g of 4-(3-bromopropyloxy)benzophenone was dissolved in a 70% aqueous ethylamine solution, and then stirred at 90° C. for 5 hours. The mixture was dissolved in 50 ml of chloroform, washed with water three times, dried over anhydrous sodium sulfate and then concentrated to obtain 0.9 g of N-ethyl-3-(4-benzoylphenyloxy)propylamine.

reactant | 4-(3-bromopropyloxy)benzophenone | 1.0 g | BrCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H15BrO2
reactant | ethylamine | C(C)N | C2H7N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-3-(4-benzoylphenyloxy)propylamine | 0.9 g | C(C)NCCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C18H21NO2
